US06222034B1
e) 2-Amino-3-carboethoxy-6-(3-phenyl)propyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine
10.0 g (44.2 mmol) of 2-amino-3-carboethoxy-4,5,6,7-tetra-hydrothieno[2,3-c)pyridine [sic] in 100 ml of toluene were mixed with 9.0 g (45 mM) of 1-phenyl-3-bromopropane, 400 mg of potassium iodide and 6.1 g (44.2 mmol) of finely powdered potassium carbonate and refluxed for 6 h. The residue after concentration in a rotary evaporator was taken up in water, adjusted to pH=10 and extracted twice with methylene chloride. The crude product after drying and concentration of the organic phase was extracted by stirring in 50 ml of isopropanol. The pale solid was filtered off with suction and washed with isopropanol. 7.8 g (51%) of product with melting point 108-110° C. were isolated.

reactant | 2-amino-3-carboethoxy-4,5,6,7-tetra-hydrothieno[2,3-c)pyridine | 44.2 mmol, 10.0 g | NC1=C(C2=C(CNCC2)S1)C(=O)OCC | C10H14N2O2S
reactant | 1-phenyl-3-bromopropane | 45 mM, 9.0 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | potassium iodide | 400 mg | [I-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Amino-3-carboethoxy-6-(3-phenyl)propyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 7.8 g, 51% | NC1=C(C2=C(CN(CC2)CCCC2=CC=CC=C2)S1)C(=O)OCC | C19H24N2O2S
